US07566724B2
To a solution of (E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (5.63 g) in THF (165 ml), 0.1N aqueous sodium hydroxide solution (165 ml) was added, and the resulting mixture was stirred at room temperature for 1 hour. Water (200 ml) was added to the reaction solution and the resulting mixture was washed with ether. Aqueous layer was acidified by adding 1N hydrochloric acid thereto and extracted twice with ethyl acetate. Organic layers were washed with saturated brine and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated to dryness to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid (4.68 g).

reactant | (E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 5.63 g | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)C(C)C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C26H26Cl2N4O3
reactant | Water | 200 ml | O | H2O
solvent | THF | 165 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 0.1N, 165 ml | [OH-].[Na+]
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid | 4.68 g | ClC1=C(C(=O)NC(C(=O)O)C\C=C\C2=CC=C(C=C2)N(C2=NC=CC=N2)C(C)C)C(=CC=C1)Cl | C25H24Cl2N4O3
